US08614239B2
Preparation of Intermediate (4-Bromo-2-fluoro-phenyl)-(2,3-difluoro-5-methoxy-6-nitro-phenyl)-amine (I-4a)
Intermediate I-4a was prepared from (4-bromo-2-fluoro-phenyl)-(2,3,5-trifluoro-6-nitro-phenyl)-amine (25 g, 0.069 mol) and sodium methoxide (18.6 g, 0.344 mol) using procedures analogous to Intermediate (I-3a) above to afford the product (81% yield).

reactant | (4-bromo-2-fluoro-phenyl)-(2,3,5-trifluoro-6-nitro-phenyl)-amine | 0.069 mol, 25 g | BrC1=CC(=C(C=C1)NC1=C(C(=CC(=C1[N+](=O)[O-])F)F)F)F | C12H5BrF4N2O2
reactant | sodium methoxide | 0.344 mol, 18.6 g | C[O-].[Na+]
product | (4-Bromo-2-fluoro-phenyl)-(2,3-difluoro-5-methoxy-6-nitro-phenyl)-amine | 81% yield | BrC1=CC(=C(C=C1)NC1=C(C(=CC(=C1[N+](=O)[O-])OC)F)F)F | C13H8BrF3N2O3
